Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
wrist pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ w/PMH of HTN and bipolar disorder who underwent a negative 
cardiac catheterization via the right radial artery at an OSH 10 
days prior to presentation c/b thrombosis and occlusion of the 
artery, now transferred for further management.
Patient noted some increased pain in her right wrist 3 days 
after catheterization but states that she never developed a mass 
or drainage over the insertion site. Her hand has remained warm 
and sensate with good motor function. She does endorse some mild 
sensory deficits along the lateral aspect of the thenar 
eminence. The catheterization was performed for recurrent chest 
pain that radiated to her left arm and jaw.
In the ED, initial vitals were: 99.0 92 136/94 16 97% RA
- Exam notable for: well-appearing, UEs symmetric in appearance, 
no radial pulse, (+) brisk reperfusion of palm on ulnar ___ 
test, motor intact
- Labs notable for: CBC and chem7 wnl
- Imaging was notable for: CTA RUE:
The radial artery is patent proximally at its origin, however 
becomes severely attenuated in the midforearm and is completely 
occluded in the distal forearm. The right subclavian, axillary, 
brachial, and ulnar arteries are patent.
- Vascular surgery and hand surgery was consulted
- Patient was given:
___ 17:39 IV Heparin Started 1500 units/hr
- Vitals prior to transfer: 97.7 89 131/81 15 97% RA
Upon arrival to the floor, patient easily confirmed the above 
history.
 
Past Medical History:
-HTN
-Bipolar disorder
Past Surgical History:
-Reduction mammoplasty
-Partial Hysterectomy
-Bladder surgery
-Denies any extremity procedures other than this catheterization
 
Social History:
___
Family History:
 noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: 97.7 123/82 79 18 96 RA
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, PERRL.
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
Ext: WWP without edema, right wrist without radial pulse, 
healing puncture, mild tenderness to palpation, digits warm with 
good perfusion
Neuro: CNII-XII intact, moving all ext

DISCHARGE PHYSICAL EXAM
Vital Signs: 98.0 PO 142 / 90 96 20 98 Ra
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, PERRL.
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
Ext: WWP without edema, right wrist without radial pulse, 
healing puncture, mild tenderness to palpation, digits warm with 
good perfusion
Neuro: CNII-XII intact, moving all ext
 
Pertinent Results:
ADMISSION LABS
=====================
___ 03:55PM   ___ PTT-26.9 ___
___ 03:55PM   PLT COUNT-289
___ 03:55PM   NEUTS-51.7 ___ MONOS-9.6 EOS-1.5 
BASOS-0.8 IM ___ AbsNeut-5.09 AbsLymp-3.49 AbsMono-0.94* 
AbsEos-0.15 AbsBaso-0.08
___ 03:55PM   WBC-9.8 RBC-3.91 HGB-11.7 HCT-36.6 MCV-94 
MCH-29.9 MCHC-32.0 RDW-13.1 RDWSD-44.3
___ 03:55PM   estGFR-Using this
___ 03:55PM   GLUCOSE-110* UREA N-23* CREAT-1.0 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-23 ANION GAP-16
___ 11:13PM   PTT-87.6*
___ 06:15AM   ___ PTT-135.4* ___
___ 06:15AM   PLT COUNT-269
___ 06:15AM   WBC-7.9 RBC-3.80* HGB-11.4 HCT-35.4 MCV-93 
MCH-30.0 MCHC-32.2 RDW-13.1 RDWSD-44.0
___ 06:15AM   GLUCOSE-125* UREA N-18 CREAT-1.0 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-23 ANION GAP-17
___ 12:37PM   PTT-141.3*
___ 07:45PM   PTT-56.2*

RADIOLOGY IMAGES
==================
___ CTA RIGHT ARM
FINDINGS: 
The right subclavian, axillary, brachial, anterior and posterior 
interosseous
and ulnar arteries are patent.
After the origin of the radial artery, the vessel becomes 
diminutive and there
are several small vessels opacified about a central unopacified 
vessel.  Some
of the vessels that are patent appear to be small veins but at 
least 1 appears
to be an artery.  Just proximal to the wrist the vessel again 
becomes slightly
larger in caliber.  It is uncertain if this is a dissection with 
occlusion or
partial occlusion of the radial artery or a diminutive radial 
artery with
venous thrombus.
IMPRESSION: 
It is uncertain if there is a dissection with occlusion or 
partial occlusion
of the radial artery versus is a diminutive artery and venous 
thrombus.
RECOMMENDATION(S):  Right upper extremity US of the radial 
artery and vein to
assess for thrombus is recommended.

___ ART DUPLEX OF RIGHT ARM
IMPRESSION: 
Occluded distal right radial artery from the mid forearm to the 
wrist.  The
ulnar artery is patent.
No right upper extremity DVT is identified.

DISCHARGE LABS
================
___ 08:00AM BLOOD WBC-8.1 RBC-4.15 Hgb-12.4 Hct-39.2 MCV-95 
MCH-29.9 MCHC-31.6* RDW-13.1 RDWSD-44.9 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-84.7* ___
___ 08:00AM BLOOD Glucose-155* UreaN-13 Creat-1.0 Na-139 
K-4.2 Cl-105 HCO3-21* AnGap-17
___ 08:00AM BLOOD Calcium-9.4 Phos-3.1 Mg-2.___ w/PMH of HTN and bipolar disorder who underwent a negative 
cardiac catheterization via the right radial artery at an OSH 10 
days prior to presentation c/b thrombosis and occlusion of the 
artery. CTA and right arm ultrasound confirmed an extensive 
right radial thrombosis. The patient had excellent collateral 
perfusion to her hand via her ulnar and diminutive radial 
arteries. The patient was started on heparin and observed in the 
hospital for two nights. The patient's symptoms improved on 
heparin. She was changed to lovenox and warfarin on day of 
discharge and will follow up with her PCP on ___ for INR 
check and continuing management. The patient was informed of 
danger signs and evidence of worsening symptoms that would 
prompt an urgent trip back to the Emergency Department. The 
patient was continued on all of her home medications. 

====================
ACUTE ISSUES
====================

# Right radial thrombosis
Provoked in the setting of recent cardiac catheterization and 
extending to proximal forearm based on CTA. Per discussion with 
vascular surgery and hand surgery, good perfusion to fingers and 
hand with intact pulmar arch, no acute intervention required at 
this time. Will follow up in clinic and determine if bypass 
procedure is needed if not resolving. We monitored hand and 
fingers for signs of hypoperfusion. Transitioned to 
lovenox/warfarin (follow up as an outpatient with PCP and local 
___ or Hand surgeon). Continue on home aspirin 81mg daily. 

====================
CHRONIC ISSUES:
====================

# HTN: Currently well controlled.
- Cont home Losartan Potassium 100 mg PO DAILY

# Bipolar disorder: Currently well controlled.
- Cont home Amphetamine-Dextroamphetamine 15 mg PO BID and 
ARIPiprazole 5 mg PO DAILY
- Hold home Emsam (selegiline) for formulary

# HLD
- Cont home aspirin 81mg and atorvastatin 80mg

# Migraines
- Cont home Topiramate (Topamax) 200 mg PO DAILY

TRANSITIONAL ISSUES
============================
NEW MEDICATIONS
- Lovenox 90mg SC BID until therapeutic on Warfarin
- Warfarin 5mg PO Daily (patient to have INR checked on ___
- Patient should continue her aspirin 81mg daily indefinitely 

BLOODWORK
- INR to be drawn ___ during follow up appointment with PCP

OTHER ISSUES
- Patient will need Ultrasound of right arm in 3 months to 
evaluate for resolution of clot
- Patient should follow up with vascular or hand surgery closer 
to home after discharge; our hand department would see her, but 
the patient requested someone closer to where she lives
- If there are questions about long term anticoagulation; would 
recommend referring to a hematologist to assist in managing 
total course of anti-coagulation 
***OF NOTE PATIENT IS A JEHOVAH'S WITNESS AND DOES NOT WISH TO 
EVER HAVE BLOOD TRANSFUSIONS***
# CODE: FULL
# CONTACT: 
Name of health care proxy: ___ 
Phone number: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Topiramate (Topamax) 200 mg PO DAILY 
5. Amphetamine-Dextroamphetamine 15 mg PO BID 
6. ARIPiprazole 5 mg PO DAILY 
7. Emsam (selegiline) 12 mg/24 hr transdermal DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 90 mg SC BID 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 90 mg SC Twice a Day Disp #*28 Syringe 
Refills:*0 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Amphetamine-Dextroamphetamine 15 mg PO BID  
4.  ARIPiprazole 5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Emsam (selegiline) 12 mg/24 hr transdermal DAILY  
8.  Losartan Potassium 100 mg PO DAILY  
9.  Topiramate (Topamax) 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Radial Artery Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came into the hospital with right hand and arm pain, coupled 
with some "tingling" in your hand after receiving a diagnostic 
cardiac catheterization over one week prior. You were found to 
have complete occlusion of an artery in your hand call the 
radial artery. However, the other arteries in your arm were 
providing excellent blood flow to your hand and your symptoms 
were minimal. You were started on a blood thinner called heparin 
to monitor your symptoms. 

You were evaluated by the vascular and hand surgery teams in the 
Emergency room and they determined that the risks of surgery 
vastly outweighed the benefits, since the collateral perfusion 
was excellent. They determined that anticoagulation and follow 
up Ultrasound would be recommended. 

You were be discharged on Lovenox injections twice a day until 
your warfarin is therapeutic. You will follow up with your 
Primary Care Doctor on ___ at @ 9:45AM. You will need 
an ultrasound three months after being on warfarin. 

It was a pleasure to take part in your care during your stay 
here at ___. 

Sincerely, 

Your ___ Team 
 
Followup Instructions:
___